US09145441B2
Compound 107c. (E)-(R)-4-[2-((R)-1-Hydroxy-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoic acid
A stirred solution of acetic acid (R)-1-{7-[(E)-(R)-4-((R)-4-isopropyl-2-oxo-oxazolidin-3-yl)-3-methoxymethyl-3-methyl-4-oxo-but-1-enyl]-quinolin-2-yl}-ethyl ester (183 mg, 0.391 mmol) in tetrahydrofuran (4 mL) and water (2 mL) was cooled to 0° C. and hydrogen peroxide (30% in water, 222 mg, 201 μL, 1.96 mmol.) and lithium hydroxide.monohydrate (49 mg, 1.17 mmol) were added. After a minute the reaction mixture was allowed to warm to ambient temperature and stirred for 4 h after which it was cooled to 0° C. Sodium metabisulfite was added until the solution was saturated and the reaction mixture stirred for 15 minutes and then acidified to pH 1 with hydrochloric acid (2 M) and extracted with dichloromethane (3×). The aqueous layer was saturated with sodium chloride and extracted with 1:9 methanol:dichloromethane and the combined organics dried over anhydrous sodium sulfate, filtered and evaporated. The residue was purified by SCX cartridge eluting with methanol and then methanolic ammonia and the basic fraction collected and evaporated to give the title compound (101 mg, 82%) as a yellow film. 1H NMR (300 MHz, CDCl3) δ 1.53 (s, 3H), 1.60 (d, J=6.5 Hz, 3H), 3.51 (s, 3H), 3.62 (d, J=8.9 Hz, 1H), 3.75 (d, J=9.1 Hz, 1H), 5.06 (q, J=6.5 Hz, 1H), 6.64, 6.78 (ABq, J=16.5 Hz, 2H), 7.34 (d, J=8.3 Hz, 1H), 7.64 (dd, J=8.5, 1.5 Hz, 1H), 7.78 (d, J=8.5 Hz, 1H), 8.06 (s, 1H), 8.13 (d, J=8.5 Hz, 1H). LCMS (m/z) 316.2 [M+H], Tr=1.28 min.

reactant | acetic acid (R)-1-{7-[(E)-(R)-4-((R)-4-isopropyl-2-oxo-oxazolidin-3-yl)-3-methoxymethyl-3-methyl-4-oxo-but-1-enyl]-quinolin-2-yl}-ethyl ester | 0.391 mmol, 183 mg | C(C)(C)[C@H]1N(C(OC1)=O)C([C@@](/C=C/C1=CC=C2C=CC(=NC2=C1)[C@@H](C)OC(C)=O)(C)COC)=O | C26H32N2O6
reactant | hydrogen peroxide | 1.96 mmol, 201 μL, 222 mg | OO | H2O2
reactant | lithium hydroxide | [OH-].[Li+]
reactant | Sodium metabisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | (E)-(R)-4-[2-((R)-1-Hydroxy-ethyl)-quinolin-7-yl]-2-methoxymethyl-2-methyl-but-3-enoic acid | 101 mg, 82% | O[C@H](C)C1=NC2=CC(=CC=C2C=C1)/C=C/[C@](C(=O)O)(C)COC | C18H21NO4
